US05091560
Synthesis of Octanoyloxy Acetic Acid (OOAA)
15.8 gm (0.20 mole) pyridine and 50 ml. acetone were combined in a 250 ml. round bottomed-three necked flask equipped with magnetic stir bar and two addition funnels, and cooled in an ice water bath with stirring. One addition funnel was charged with 15.5 gm (0.20 mole) glycolic acid dissolved in approximately 75 ml. acetone. The other addition funnel was charged with 32.5 gm (0.20 mole) octanoyl chloride. The contents of each addition funnel were added simultaneously to the cooled, stirred pyridine solution so that the complete addition of each component was continuous over one hour. The resultant slurry (a precipitation of pyridine hydrochloride was noted) was stirred an additional 45 minutes at ice bath temperature, and then at room temperature for another 30 minutes. Solvent was then removed by rotary evaporation at reduced pressure and 45C. The residual oil was dissolved in 200 ml dichloromethane and this was extracted with 3×150 ml. of 4% aqueous HCl. The dichloromethane layer was dried over sodium sulfate, decanted and the solvent removed by rotary evaporation. Drying on high vacuum for 4 hours left OOAA and 8.0% octanoic acid by weight, giving a crude yield for OOAA of 84%(mole). Recrystallization from 200 ml. hexane gave 27 g of a white crystalline product melting at 50 to 52° C., which was determined to be 99% wt. OOAA, giving a 67% (mole) yield of pure octanoxyloxyacetic acid.

reactant | acetone | CC(=O)C | C3H6O
reactant | glycolic acid | 0.20 mole, 15.5 gm | C(CO)(=O)O | C2H4O3
reactant | octanoyl chloride | 0.20 mole, 32.5 gm | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.20 mole, 15.8 gm | N1=CC=CC=C1 | C5H5N
product | Octanoyloxy Acetic Acid | 27 g | C(CCCCCCC)(=O)OCC(=O)O | C10H18O4
